US04297357
To a solution 5.0 g of N-(3-carbamoylphenyl)glycine dissolved in 65 ml of tetrahydrofuran was added dropwise a mixture solution of 2.3 ml of trichloromethyl chloroformate and 10 ml of tetrahydrofuran under refluxing. After the refluxing was continued for an additional 3 hours, the reaction solution was concentrated under reduced pressure and 30 ml of petroleum ether was added dropwise while stirring under cooling. The precipitate was collected by filtration, washed with petroleum ether and dried to obtain 5.3 g of N-(3-carbamoylphenyl)-N-carboxyglycine anhydride as colorless crystals having a melting point of 160°-171° C. (dec.). 5.3 g of the compound thus obtained was added in small portions to a mixture of 4.4 g of 3,4-dimethoxyphenethylamine, 4.9 g of triethylamine and 30 ml of dimethylformamide under ice-cooling. After completion of addition, the reaction solution was allowed to warm gradually to room temperature and stirred for 1.5 hours. The reaction solution was at first acidified with 25 ml of 10% hydrochloric acid and subsequently rendered alkaline with 5.3 g of sodium carbonate again. The alkaline solution was concentrated under reduced pressure. The residue was dissolved in 70 ml of chloroform, washed with a small amount of water, dried and the solvent was then evaporated to dryness in vacuo. The residue was subjected to column chromatography on silica gel (40 g) and eluted with a mixture of chloroform and methanol (100:1 by volume). The eluate was concentrated to obtain 2-(3-carbamoylphenylamino)-N-(3,4-dimethoxyphenethyl)acetamide. The free base was converted into the corresponding hydrochloride salt by reacting the free base with a 5% methanolic solution of hydrogen chloride as described in Example 4. The salt was recrystallized from a mixture of methanol and diethyl ether to obtain 3.1 g of 2-(3-carbamoylphenylamino)-N-(3,4-dimethoxyphenethyl)acetamide hydrochloride having a melting point of 140°-155° C. (dec.).

reactant | 3,4-dimethoxyphenethylamine | 4.4 g | COC=1C=C(CCN)C=CC1OC | C10H15NO2
reactant | triethylamine | 4.9 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | sodium carbonate | 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-(3-carbamoylphenylamino)-N-(3,4-dimethoxyphenethyl)acetamide | C(N)(=O)C=1C=C(C=CC1)NCC(=O)NCCC1=CC(=C(C=C1)OC)OC | C19H23N3O4
